US07858640B2
2-(2-chloro-4-methanesulfonylbenzyl)-3-oxobutyric Acid Ethyl Ester
The title compound was prepared by the method of Preparation 34a using 1-bromomethyl-2-chloro-4-methanesulfonylbenzene and 3-oxobutyric acid ethyl ester.

reactant | 1-bromomethyl-2-chloro-4-methanesulfonylbenzene | BrCC1=C(C=C(C=C1)S(=O)(=O)C)Cl | C8H8BrClO2S
reactant | 3-oxobutyric acid ethyl ester | C(C)OC(CC(C)=O)=O | C6H10O3
product | 2-(2-chloro-4-methanesulfonylbenzyl)-3-oxobutyric Acid Ethyl Ester | C(C)OC(C(C(C)=O)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O | C14H17ClO5S
